US06432993B1
2-Chloro-3,5-dimethylbenzene-1,4-diol
A mixture of 12.08 g of 3,5-dimethyl-4-nitrosophenol, 11.45 g of cuprous oxide, 100 ml of 1,4-dioxane, 10 ml of acetone and 100 ml of 6N hydrochloric acid was heated under reflux for 2 hours. The reaction mixture was poured into iced water, followed by extraction with ether. The extract was dried over anhydrous sodium sulfate and the solvent was then distilled off under reduced pressure. The residue was dissolved in 150 ml of dichloromethane. To the resulting solution, 3.61 g of sodium borohydride were added under ice cooling, followed by the dropwise addition of 50 ml of methanol at an internal temperature not higher than 10° C. The reaction mixture was stirred at room temperature for 90 minutes. The reaction mixture was concentrated by evaporation. The concentrate was poured into iced water. The resulting mixture was acidified with 3N hydrochloric acid. The precipitated product was collected by filtration, washed successively with water and n-hexane, whereby 5.93 g of the title compound were obtained.

reactant | 3,5-dimethyl-4-nitrosophenol | 12.08 g | CC=1C=C(C=C(C1N=O)C)O | C8H9NO2
reactant | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | water | O | H2O
product | 2-Chloro-3,5-dimethylbenzene-1,4-diol | 5.93 g | ClC1=C(C=C(C(=C1C)O)C)O | C8H9ClO2
